US09447084B2
4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-1-(2,2,2-trifluoroethyl)piperazine-2,6-dione
Into a 50-mL round-bottom flask, was placed a solution of 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)piperazine-2,6-dione (300 mg, 0.53 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL), K2CO3 (140 mg, 1.01 mmol, 2.00 equiv), 2,2,2-trifluoroethyl trifluoromethanesulfonate (240 mg, 1.03 mmol, 2.00 equiv). The resulting solution was stirred for 1 h at 20° C. The resulting solution was diluted with 50 mL of brine. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/5). This resulted in 235.9 mg (69%) of 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-1-(2,2,2-trifluoroethyl)piperazine-2,6-dione as a off-white solid. (ES, m/z): [M−H]− 648; 1H NMR (300 MHz, CDCl3) δ: 8.00-8.05 (m, 2H), 7.44-7.53 (m, 4H), 4.94-5.01 (m, 1H), 4.68 (s, 1H), 4.50-4.56 (m, 2H), 4.10-4.16 (m, 3H), 3.76 (d, J=17.4 Hz, 1H)

reactant | 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)piperazine-2,6-dione | 0.53 mmol, 300 mg, 1.00 equiv | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C(F)(F)F)C(F)(F)F | C22H13Cl2F6N3O4
reactant | K2CO3 | 1.01 mmol, 140 mg, 2.00 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 1.03 mmol, 240 mg, 2.00 equiv | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 4-([4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-(trifluoromethyl)phenyl]carbonyl)-1-(2,2,2-trifluoroethyl)piperazine-2,6-dione | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(N(C(C1)=O)CC(F)(F)F)=O)C(F)(F)F)C(F)(F)F | C24H14Cl2F9N3O4
